US05428037
A mixture of 5,6-dimethyl-2-(4-methylphenyl)-3H-pyrimidin-4-one (6 g) and phosphorus oxychloride (40 ml) was refluxed for 2 hours. Excess phosphorus oxychloride was removed under reduced pressure, ice added to the residue, and the mixture extracted with methylene chloride, the organic layer washed with brine, dried over sodium sulfate, the solvent evaporated under reduced pressure, to yield 6.2 g of 4,5-dimethyl-6-chloro-2-(4-methylphenyl)pyrimidine, m.p. 165° C.

reactant | 5,6-dimethyl-2-(4-methylphenyl)-3H-pyrimidin-4-one | 6 g | CC=1C(NC(=NC1C)C1=CC=C(C=C1)C)=O | C13H14N2O
reactant | phosphorus oxychloride | 40 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4,5-dimethyl-6-chloro-2-(4-methylphenyl)pyrimidine | 6.2 g | CC1=NC(=NC(=C1C)Cl)C1=CC=C(C=C1)C | C13H13ClN2
